US04232032
A mixture of 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylic acid (2.08 g.), ammonium chloride (0.33 g.) and sodium azide (0.36 g.) in anhydrous dimethylsulphoxide (10 ml.) was warmed on the steam bath for 16 hours. The reaction mixture was cooled, poured onto ice and kept for 16 hours. The white product was filtered off, washed with water and dried, and crystallised from aqueous ethanol to give 4-dichloromethylene-2-trichloromethybenzo[1,3]dioxin-6-carboxylic acid, m.p. 222°-223° C.

reactant | 2,4-bis(trichloromethyl)benzo[1,3]dioxin-6-carboxylic acid | 2.08 g | ClC(C1OC2=C(C(O1)C(Cl)(Cl)Cl)C=C(C=C2)C(=O)O)(Cl)Cl | C11H6Cl6O4
reactant | ammonium chloride | 0.33 g | [Cl-].[NH4+]
reactant | sodium azide | 0.36 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulphoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-dichloromethylene-2-trichloromethybenzo[1,3]dioxin-6-carboxylic acid | ClC(=C1OC(OC2=C1C=C(C=C2)C(=O)O)C(Cl)(Cl)Cl)Cl | C11H5Cl5O4
